US04877876
3.5 g of 2-bromo-5-fluoro-1-indanone and 3.1 g of N-(3-morpholinopropyl)thiourea were added to 40 ml of ethanol. The resulting mixture was refluxed for 10 minutes, agitated for 24 hours at room temperature to precipitate crystals which were collected by filtration. The thus collected crystals were washed with ethanol, dried, incorporated with 40 ml of a 5% aqueous solution of NaOH, extracted with ethyl acetate, washed with water, dried, distilled at a reduced pressure and then recrystallized from ethyl acetate-isopropyl ether thereby to obtain 3.9 g of 2-(3-morpholinopropyl)amino-6-fluoro-8H-indeno[1.2-d]thiazole. The thus obtained compound had a melting point of 113° to 115° C. and the following analysis.

reactant | 2-bromo-5-fluoro-1-indanone | 3.5 g | BrC1C(C2=CC=C(C=C2C1)F)=O | C9H6BrFO
reactant | N-(3-morpholinopropyl)thiourea | 3.1 g | O1CCN(CC1)CCCNC(=S)N | C8H17N3OS
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(3-morpholinopropyl)amino-6-fluoro-8H-indeno[1.2-d]thiazole | 3.9 g | O1CCN(CC1)CCCNC=1SC2=C(N1)C=1C=CC(=CC1C2)F | C17H20FN3OS
